resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.11349
R2 0 n2 1.011771
R3 0 n4 1.008956
R4 n1 n3 0.989289
R5 n1 n5 0.982739
R6 n2 n3 0.981948
R7 n2 n6 17.747069
R8 n3 n7 1.010792
R9 n4 n5 1.005347
R10 n4 n6 0.995773
R11 n5 n7 0.983233
R12 n6 n7 0.994435
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
